US07943774B2
1-{4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (I-78)
4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine (II-3, 127 mg) is reacted analogously to Example I-81 with [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (118 mg). After chromatographic purification, this gives 1-{4-[5-bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (52 mg).

reactant | 4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine | 127 mg | BrC1=C(N=C(S1)C1CCNCC1)CCC1=CC=CC=C1 | C16H19BrN2S
reactant | [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 118 mg | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
product | 1-{4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | BrC1=C(N=C(S1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O)CCC1=CC=CC=C1 | C23H24BrF3N4OS
